US07977352B2
Using the method described above for the synthesis of 4-(4-isopentylpiperazin-1-yl)aniline, treatment of 1-(4-nitrophenyl)-4-propylpiperazine (1.0 g, 4.01 mmol) with H2 and 10% Pd/C provided crude 4-(4-propylpiperazin-1-yl)aniline (0.99 g, 118% recovery due to incomplete removal of the solvent, >80% purity as determined by LC/MS analysis @ UV 254 nm detection,). The crude product is used in the next step without further purification. LCMS-ESI (m/z): calcd for C13H21N3, 219; [M+H]+ found, 220.

reactant | 4-(4-isopentylpiperazin-1-yl)aniline | C(CC(C)C)N1CCN(CC1)C1=CC=C(N)C=C1 | C15H25N3
reactant | 1-(4-nitrophenyl)-4-propylpiperazine | 4.01 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CCC | C13H19N3O2
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-propylpiperazin-1-yl)aniline | C(CC)N1CCN(CC1)C1=CC=C(N)C=C1 | C13H21N3
